US04786646
A solution of bis(3-methoxyphenyl)diazomethane, prepared as in Example 84 from 3,3'-dimethoxybenzophenone hydrazone (2.45 g) and activated manganese dioxide (3.2 g) in dichloromethane (15 mL), was added to a stirred solution of acrolein (0.73 mL) in heptane (10 mL) over 15 minutes at 40° C. After 45 minutes at 40° C., the solution had changed from intense purple to pale pink in color. The dichloromethane was then distilled off, heptane (10 mL) added and the mixture stirred at reflux for 1 hour. Evaporation of the solution and purification of the residue by using HPLC (ethyl acetate-hexane; 1:4) afforded 1.5 g of 2,2-bis(3-methoxyphenyl)cyclopropanecarboxaldehyde as an oil.

reactant | bis(3-methoxyphenyl)diazomethane | COC=1C=C(C=CC1)C(=[N+]=[N-])C1=CC(=CC=C1)OC | C15H14N2O2
reactant | 3,3'-dimethoxybenzophenone hydrazone | 2.45 g | COC=1C=C(C(C2=CC(=CC=C2)OC)=NN)C=CC1 | C15H16N2O2
reactant | acrolein | 0.73 mL | C(=O)C=C | C3H4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | heptane | 10 mL | CCCCCCC | C7H16
catalyst | manganese dioxide | 3.2 g | [O-2].[O-2].[Mn+4]
product | 2,2-bis(3-methoxyphenyl)cyclopropanecarboxaldehyde | 1.5 g | COC=1C=C(C=CC1)C1(C(C1)C=O)C1=CC(=CC=C1)OC | C18H18O3
